US07994163B2
Dissolve 5-ethyl-1H-1,3,4-triazole-2-thione (92 mg, 0.71 mmol) in anhydrous DMF (5 mL). Add sodium hydride (40 mg, 0.925 mmol, 60% dispersion in mineral oil) at room temperature under a nitrogen atmosphere and stir for 10 min. Add a solution of 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (210 mg, 0.65 mmol) in anhydrous DMF (5 mL) at room temperature over 3 min and stir under nitrogen for 18 h. Quench with saturated aqueous NH4Cl (ca. 1 mL) and pour into water (100 mL). Extract the aqueous phase with EtOAc (3×25 mL) and wash the combined organic extracts with brine. Dry the organic solution over Na2SO4, filter and concentrate in vacuo to obtain crude 3-tert-butoxycarbonyl-7-chloro-6-(5-ethyl-1H-1,3,4-triazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (200 mg, 73%) suitable for use without further purification. MS (ES+) m/z: 423 (M+H)+.

reactant | 5-ethyl-1H-1,3,4-triazole-2-thione | 0.71 mmol, 92 mg | C(C)C1=NNC(N1)=S | C4H7N3S
reactant | sodium hydride | 0.925 mmol, 40 mg | [H-].[Na+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.65 mmol, 210 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCl | C16H21Cl2NO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-tert-butoxycarbonyl-7-chloro-6-(5-ethyl-1H-1,3,4-triazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 200 mg, 73% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC=2NC(=NN2)CC | C20H27ClN4O2S
